US07384945B2
4-(3-Amino-4-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester
A mixture of 2 g (11.6 mmol) 5-chloro-2-nitro-phenylamine, 2.14 g (11.6 mmol) piperazine-1-carboxylic acid tert-butyl ester and 1.3 g (11.6 mmol) 1,4-diazo-bicyclo[2.2.2]octane in 20 ml DMSO was heated to 150° C. for 16 h. The mixture was poured onto 200 ml water and extracted with 250 ml ethyl acetate. The emulsion was filtered through decalite and the aqueous phase was extracted with 2×200 ml. The combined organic phases were washed with 2×100 ml water, dried with MgSO4 and evaporated to dryness. The residue was purified with column chromatography on silica eluting with ethyl acetate/hexane to yield the title compound as a yellow solid. MS(ISP): 321.2 (M−H)−.

reactant | 5-chloro-2-nitro-phenylamine | 11.6 mmol, 2 g | ClC=1C=CC(=C(C1)N)[N+](=O)[O-] | C6H5ClN2O2
reactant | piperazine-1-carboxylic acid tert-butyl ester | 11.6 mmol, 2.14 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | water | 200 ml | O | H2O
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | 4-(3-Amino-4-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])N | C15H22N4O4
